US08034812B2
Production of 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoic acid
To a solution of methyl 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoate (619 mg, 2.17 mmol) in methanol (20 mL) was added 8N aqueous sodium hydroxide solution (1.00 mL), and the mixture was stirred at 70° C. for 18 hr. After the reaction mixture was allowed to cool to room temperature, 6N hydrochloric acid (1.33 mL) was added to the reaction mixture, and the precipitated precipitate was collected by filtration, and washed with water. The precipitate was suspended in methanol (10 mL), and the suspension was stirred with heating under reflux for 10 min. After the suspension was allowed to cool to room temperature, the precipitate was collected by filtration, washed with methanol, and dried under reduced pressure to give the title compound (496 mg, 1.83 mmol, yield 84%) as a white solid.

reactant | methyl 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoate | 2.17 mmol, 619 mg | N=1C=CN2N=C(C=CC21)SC2=C(C(=O)OC)C=CC=C2 | C14H11N3O2S
reactant | sodium hydroxide | 8N, 1.00 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 1.33 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoic acid | 1.83 mmol, 496 mg, yield 84% | N=1C=CN2N=C(C=CC21)SC2=C(C(=O)O)C=CC=C2 | C13H9N3O2S
